US07473694B2
Synthesis of tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-oxo-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate
To a mixed solution of tetrahydrofuran (0.3 mL) and N,N-dimethylformamide (0.1 mL) containing tert-butyl (S)-3-(2-{7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-5-chloropyrazolo[1,5-a]pyrimidin-6-yl}acetylamino)piperidine-1-carboxylate (4.3 mg), sodium hydride (with 40% mineral oil added) (10 mg) was added, and the mixture was stirred at room temperature for 1 hr. To the reaction solution, aqueous ammonium chloride was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off to obtain the title compound.

reactant | tetrahydrofuran | 0.3 mL | O1CCCC1 | C4H8O
reactant | tert-butyl (S)-3-(2-{7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-5-chloropyrazolo[1,5-a]pyrimidin-6-yl}acetylamino)piperidine-1-carboxylate | 4.3 mg | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)Cl)CC(=O)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)OCC | C31H41ClN6O6
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-oxo-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N(C1=C2CC(N(C2=NC2=CC=NN12)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)=O)C1=CC=C(C=C1)OCC | C31H40N6O6
